* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1680.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N006 N009 N005 N012 N010 0 N008 MP_01 IN N001 N002 0 N007 IN MP_02 N006 LT1680
M§Q1 N003 N007 0 0 Si4410DY
R1 IN N001 5m
L1 N001 N003 25µ
C1 N005 N004 2.2n
R2 IN N002 100K
C2 N012 0 .01µ
C3 N009 0 1000p
R3 N006 N009 15K
V1 IN 0 12
D1 N003 OUT MBRS1100
C4 OUT 0 680µ Rser=.1
R4 OUT N008 75K
R5 N008 0 2K
R6 N011 0 4.7K
C5 N010 N011 .0047µ
Rload OUT 0 20
C6 N006 0 1µ
R8 N004 0 2K
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 8m startup
.lib LT1680.sub
.backanno
.end
